US04510309
3-(2,3-Dihydroxypropylamino)-4-{2-[(2-guanidinothiazol-4-yl)methylthio]ethylamino}-1,2,5-thiadiazole 1,1-dioxide
When a methanolic solution of 2-[(2-guanidinothiazol-4-yl)methylthio]ethylamine is reacted with 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide by the procedure of Example 31 and the resultant 3-methoxy-4-{2-[(2-guanidinothiazol-4-yl)methylthio]ethylamino}-1,2,5-thiadazole 1,1-dioxide is treated with 3-amino-1,2-propanediol, the title compound is thereby produced.

reactant | 2-[(2-guanidinothiazol-4-yl)methylthio]ethylamine | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
reactant | 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide | COC1=NS(N=C1OC)(=O)=O | C4H6N2O4S
reactant | 3-amino-1,2-propanediol | NCC(CO)O | C3H9NO2
product | 3-(2,3-Dihydroxypropylamino)-4-{2-[(2-guanidinothiazol-4-yl)methylthio]ethylamino}-1,2,5-thiadiazole 1,1-dioxide | OC(CNC1=NS(N=C1NCCSCC=1N=C(SC1)NC(=N)N)(=O)=O)CO | C12H20N8O4S3
